US06774138B2
Anhydrous ZnCl2 (5.0 g, 37 mmol) was dissolved in THF (25 mL) and the solution cooled to 0° C. in an ice bath. In another flask 1-ethynylcyclohexene (4.3 mL, 36.3 mmol) was dissolved in THF (25 mL), cooled to 0° C. in an ice bath, and treated with n-butyllithium (15.7 mL of a 2.2M solution in hexane, 34.5 mmol). After 20 minutes the cyclohexenylethynyllithium solution was added via cannula to the ZnCl2 solution. After an additional 20 minutes Pd(PPh3)4 (620 mg, 0.54 mmol) was added to the alkynylzinc solution. The resulting yellow solution was treated with chloroacetyl chloride (4.2 mL, 55 mmol) dropwise over 10 minutes. After 2 h at 0° C. the reaction mixture was quenched by the addition of saturated aqueous NH4Cl (500 mL), and diluted with ethyl acetate. The aqueous phase was extracted with ethyl acetate (3×200 ml) and the combined organic layers were washed with water (200 ml), brine (200 ml), dried over Na2SO4, and filtered. The filtrate was concentrated in vacuo to afford a dark brown oil that was purified by column chromatography eluting with hexane, then 99:1 hexane:ethyl acetate to afford 1-chloro-4-(1-cyclohexen-1-yl)-3-butyn-2-one (4.4 g, 67% yield) as an orange oil. 1H NMR (CDCl3, 300 MHz) δ 6.56 (m, 1H), 4.23 (s, 2H), 2.19 (m, 4H), 1.68-1.62 (m, 4H). MS (EI ionization) 182 (35Cl M+), 184 (37Cl M+). The material was carried on to the next step without further purification.

reactant | 1-ethynylcyclohexene | 36.3 mmol, 4.3 mL | C(#C)C1=CCCCC1 | C8H10
reactant | n-butyllithium | C(CCC)[Li]
reactant | cyclohexenylethynyllithium | C1(=CCCCC1)C#C[Li]
reactant | chloroacetyl chloride | 55 mmol, 4.2 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | ZnCl2 | 37 mmol, 5.0 g | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.54 mmol, 620 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-chloro-4-(1-cyclohexen-1-yl)-3-butyn-2-one | 4.4 g, 67% yield | ClCC(C#CC1=CCCCC1)=O | C10H11ClO
